US07858640B2
N-(5-amino-2-fluorophenyl)acetamide
A mixture of 2-fluoro-5-nitrophenylamine (2.0 g), palladium, 10 wt. % on activated carbon (0.10 g) and ethanol (20 mL) were stirred at room temperature for 2 hours under an atmosphere of hydrogen. The mixture was filtered through hyflo, washing with ethanol and the solvent removed under reduced pressure to afford title compound as a white solid, 1.7 g.

reactant | 2-fluoro-5-nitrophenylamine | 2.0 g | FC1=C(C=C(C=C1)[N+](=O)[O-])N | C6H5FN2O2
reactant | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | N-(5-amino-2-fluorophenyl)acetamide | NC=1C=CC(=C(C1)NC(C)=O)F | C8H9FN2O
